US07402581B2
N-[(2S)-2-(4-Fluorophenyl)pent-4-en-1-yl]-N-methyl-3,5-bis(trifluoromethyl)benzamide (570 mg, 1.32 mmol) was dissolved in a mixture of acetone (10 mL), t-butyl alcohol (5 mL) and water (2.5 mL). OsO4 (2.5% in t-butyl alcohol, 0.190 mL, 0.013 mmol) was added together with 4-methylmorpholine-4-oxide (680 mg, 5.8 mmol). The solution was stirred at room temperature overnight and then saturated aqueous solution of NaHSO3 (10 mL) was added. The mixture was stirred for 15 min, diluted with water (50 mL) and then extracted three times with CH2Cl2. The organic solution was washed with brine and then the solvent was evaporated. The residue (643 mg) was dissolved in a mixture of THF (7 mL) and water (3 mL) and to the resultant solution was added sodium periodate (309 mg, 1.45 mmol). The mixture was stirred at room temperature overnight, diluted with water (75 mL) and brine (40 mL) and then extracted three times with ethyl acetate. The combined organic solutions were washed three times with water, dried over Na2SO4 and then the solvent was evaporated. The product was purified by chromatography on silica gel using a mixture of heptane and ethyl acetate as eluent (1:1). There was obtained 398 mg (69%) of ) N-[(2S)-2-(4fluorophenyl)-4-oxobutyl]-N-methyl-3,5-bis(trifluoromethyl)benzamide as an oil. 1H NMR (400 MHz, CDCl3): 2.6-3.9 (cm, 8H), 6.8-7.6 (cm, 6H), 7.9 (s, 1H), 9.8 (s, 1H); LCMS: m/z 436 (M+1)+.

reactant | N-[(2S)-2-(4-Fluorophenyl)pent-4-en-1-yl]-N-methyl-3,5-bis(trifluoromethyl)benzamide | 1.32 mmol, 570 mg | FC1=CC=C(C=C1)[C@@H](CN(C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C)CC=C | C21H18F7NO
reactant | 4-methylmorpholine-4-oxide | 5.8 mmol, 680 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | NaHSO3 | 10 mL | OS(=O)[O-].[Na+]
reactant | sodium periodate | 1.45 mmol, 309 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | t-butyl alcohol | 5 mL | C(C)(C)(C)O | C4H10O
solvent | water | 2.5 mL | O | H2O
solvent | water | 50 mL | O | H2O
solvent | water | 75 mL | O | H2O
solvent | brine | 40 mL | [Cl-].[Na+].O
catalyst | OsO4 | 0.013 mmol, 0.190 mL | O=[Os](=O)(=O)=O
product | N-[(2S)-2-(4fluorophenyl)-4-oxobutyl]-N-methyl-3,5-bis(trifluoromethyl)benzamide | FC1=CC=C(C=C1)[C@@H](CN(C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C)CC=O | C20H16F7NO2
